US05159083
A mixture of 3-(3-Methoxyphenyl)-7-methyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyrazin-6-one (65 mg) and 1N lithium aluminum hydride in tetrahydrofuran (2 mL) in tetrahydrofuran (4 mL) was kept at room temperature for 45 min. After quenching the reaction with 2N sodium hydroxide the reaction was filtered through celite and the solvent was removed in vacuo. The residue was subjected to flash chromatography on silica gel with 5% methanol in chloroform as the eluent to afford 3-(3-Methoxyphenyl)-7-methyl-7,8-dihydro-imidazo[1,5-a]pyrazine followed by 3-(3-Methoxyphenyl)-7-methyl-5,6,7,8-tetrahydro-imidazo[1,5-a]pyrazine whose mono fumarate salt (Compound 32) was crystallized from ethanol/ether and melted at 211°-214°.

reactant | 3-(3-Methoxyphenyl)-7-methyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyrazin-6-one | 65 mg | COC=1C=C(C=CC1)C1=NC=C2N1CC(N(C2)C)=O | C14H15N3O2
reactant | lithium aluminum hydride | 1N | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | 3-(3-Methoxyphenyl)-7-methyl-7,8-dihydro-imidazo[1,5-a]pyrazine | COC=1C=C(C=CC1)C1=NC=C2N1C=CN(C2)C | C14H15N3O
